.SUBCKT AOI2BB1X1P4H7R A0N A1N B0 VDD VSS Y
*.PININFO A0N:I A1N:I B0:I Y:O VDD:B VSS:B
MMN6 net42 A1N VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN7 Y net42 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMN4 Y B0 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMN5 net42 A0N VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMP1 net40 net42 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP2 Y B0 net40 VDD pm1p2_svt_lp W=314n L=60n m=1
MMP3 net39 A0N VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMP4 net42 A1N net39 VDD pm1p2_svt_lp W=190n L=60n m=1
.ENDS
