.SUBCKT AOI21BX1H7R A0 A1 B0N VDD VSS Y
*.PININFO A0:I A1:I B0N:I Y:O VDD:B VSS:B
MMNM2 Y net066 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MMNM1 net9 A0 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMNM0 Y A1 net9 VSS nm1p2_svt_lp W=150n L=60n m=1
MMPM2 Y net066 net8 VDD pm1p2_svt_lp W=270n L=60n m=1
MMPM1 net8 A1 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MMPM0 net8 A0 VDD VDD pm1p2_svt_lp W=190n L=60n m=1
XXI4 B0N VDD VSS net066 / INV pl=60n pw=270n nl=60n nw=210n
.ENDS
